US09403831B2
tert-butyl 3-((tosyloxy)methyl)piperidine-1-carboxylate (8.85 g, 24 mmol) was dissolved in DMF (100 ml), and then NaN3 (6.24 g, 96 mmol) and NaI (0.36 g, 2.40 mmol) were added, followed by stirring at 70° C. for hours. After the completion of the reaction, the reaction mixture was extracted with H2O, EA, and brine, followed by drying (Na2SO4), filtration, and concentration under reduced pressure, and the residue was purified by column chromatography (EA:Hex=1:10), to give tert-butyl 3-(azidomethyl)piperidine-1-carboxylate (5.38 g, 92%).

reactant | tert-butyl 3-((tosyloxy)methyl)piperidine-1-carboxylate | 24 mmol, 8.85 g | S(=O)(=O)(C1=CC=C(C)C=C1)OCC1CN(CCC1)C(=O)OC(C)(C)C | C18H27NO5S
reactant | NaN3 | 96 mmol, 6.24 g | [N-]=[N+]=[N-].[Na+]
reactant | NaI | 2.40 mmol, 0.36 g | [Na+].[I-]
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | tert-butyl 3-(azidomethyl)piperidine-1-carboxylate | 5.38 g, 92% | N(=[N+]=[N-])CC1CN(CCC1)C(=O)OC(C)(C)C | C11H20N4O2
